US07816522B2
To a solution of 61 mg of 2-(3-{(6-fluoro-9-methoxy-3,4-dihydro-2H-benzo[b][1,4]dioxepin-7-yl)-[4-(N-hydroxycarbamimidoyl)phenylamino]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)nicotinic acid in 6 ml of a methanol:water:acetic acid=1:1:1 mixed solvent there was added 60 mg of iron powder, and the mixture was stirred at 60° C. for 30 hours under a nitrogen atmosphere. Upon cooling, the reaction mixture was filtered through celite and purified by reverse-phase high performance liquid chromatography (acetonitrile-water, 0.1% trifluoroacetic acid) to give 2-{3-[(4-carbamimidoylphenylamino)-(6-fluoro-9-methoxy-3,4-dihydro-2H-benzo[b][1,4]dioxepin-7-yl)methyl]-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl}nicotinic acid.

reactant | 2-(3-{(6-fluoro-9-methoxy-3,4-dihydro-2H-benzo[b][1,4]dioxepin-7-yl)-[4-(N-hydroxycarbamimidoyl)phenylamino]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)nicotinic acid | 61 mg | FC1=C(C=C(C=2OCCCOC21)OC)C(C2=NN(C(N2)=O)C2=C(C(=O)O)C=CC=N2)NC2=CC=C(C=C2)C(NO)=N | C26H24FN7O7
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 6 ml | CO | CH4O
catalyst | iron | 60 mg | [Fe] | Fe
product | 2-{3-[(4-carbamimidoylphenylamino)-(6-fluoro-9-methoxy-3,4-dihydro-2H-benzo[b][1,4]dioxepin-7-yl)methyl]-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl}nicotinic acid | C(N)(=N)C1=CC=C(C=C1)NC(C1=NN(C(N1)=O)C1=C(C(=O)O)C=CC=N1)C1=C(C2=C(OCCCO2)C(=C1)OC)F | C26H24FN7O6
